US05312929
Preparation of allyl 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyrate (Compound No. 54)
1.5 g (5.8 mmol) of 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyric acid was dissolved in 50 ml of acetonitrile, and 0.83 g (6 mmol) of potassium carbonate and 0.73 g (6 mmol) of allyl bromide were added thereto. The mixture was refluxed under heating for 1 hour. After completion of the reaction, acetonitrile was distilled off, and ice water was added to the residue. The mixture was extracted with ethyl acetate. The extract was treated by a conventional method to obtain 1.7 g of a crude product. This crude product was purified by column chromatography to obtain 1.4 g (yield: 82%) of the desired product having a melting point of from 65° to 67° C.

reactant | 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyric acid | 5.8 mmol, 1.5 g | CC1=C(C(N(C1)C(C(=O)O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 6 mmol, 0.73 g | C(C=C)Br | C3H5Br
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | allyl 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyrate | 1.4 g, yield: 82% | CC1=C(C(N(C1)C(C(=O)OCC=C)(C)C)=O)C1=CC=CC=C1 | C18H21NO3
